US08034812B2
Production of 3-(1-cyano-1-methylethyl)-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]benzamide
To a solution of 3-(1-cyano-1-methylethyl)benzoic acid (100 mg, 0.55 mmol) in tetrahydrofuran (2.0 mL) were added oxalyl chloride (59 μL, 0.69 mmol) and N,N-dimethylformamide (1 drop), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in N-methylpyrrolidone (2 mL). N-[6-(3-Amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.46 mmol) was added to the mixture, and the mixture was stirred at room temperature for 10 hr. The reaction mixture was diluted with 1N aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate/hexane=40/60→100/0), and precipitated from ethyl acetate/diisopropyl ether to give the title compound (140 mg, 62%) as a white powder.

reactant | 3-(1-cyano-1-methylethyl)benzoic acid | 0.55 mmol, 100 mg | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
reactant | oxalyl chloride | 0.69 mmol, 59 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-Amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.46 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 3-(1-cyano-1-methylethyl)-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]benzamide | 140 mg, 62% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=C(C=CC(=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)F)C=CC1 | C27H23FN6O3
